US07452993B2
5-bromo-1H-pyrazolo[3,4-b]pyridine (3.00 g, 15.2 mmol) and N-iodosuccinimide (3.60 g, 16.0 mmol) were dissolved in anhydrous dichloroethane (100 mL). The resulting mixture was stirred under reflux conditions for 6 h, cooled to room temperature and diluted with THF (300 mL). The resulting solution was washed with a saturated aqueous solution of sodium thiosulfate (100 mL) and brine, then dried over magnesium sulfate, filtered and concentrated. The residue was titurated with a 1:1 mixture of dichloromethane and ether and then ether before being dried in vacuum to afford 5-bromo-3-iodo-1H-pyrazolo[3,4-b]pyridine (3.795 g, 77% yield) as a beige-brown solid. 1H-NMR (500 MHz, d6-DMSO) δ 14.31 (s, 1H), 8.65 (d, 1H), 8.20 (d, 1H). MS: m/z 323, 325 [MH+].

reactant | 5-bromo-1H-pyrazolo[3,4-b]pyridine | 15.2 mmol, 3.00 g | BrC=1C=C2C(=NC1)NN=C2 | C6H4BrN3
reactant | N-iodosuccinimide | 16.0 mmol, 3.60 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 5-bromo-3-iodo-1H-pyrazolo[3,4-b]pyridine | 3.795 g, 77% yield | BrC=1C=C2C(=NC1)NN=C2I | C6H3BrIN3
